US08202856B2
4-[4-{3-[4-(azetidin-1-ylmethyl)phenyl]-1,2,4-oxadiazol-5-yl}-1-(2-fluorophenyl)-1H-1,2,3-triazol-5-yl]pyridine
The title compound was prepared following the procedure described for Example 94, but starting from 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde, obtained as described in Example 113, Step 1, (100 mg; 0.24 mmol) and azetidine hydrochloride (45.4 mg; 0.48 mmol) to give Example 138 as a white solid. 1H NMR: (DMSO-d6, 400 MHz) δ 8.75 (2H, dd, J=4.6, 1.6 Hz), 7.96-7.87 (3H, m), 7.76-7.69 (1H, m), 7.61 (2H, dd, J=4.6, 1.6 Hz), 7.51 (4H, t, J=8.1 Hz), 3.67 (2H, s), 3.22 (4H, t, J=6.9 Hz), 2.04 (2H, m). LC/MS (Method C): 454 (M+H)+. HPLC (Method E) Rt 2.19 min (Purity: 96.2%).

reactant | 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C22H13FN6O2
reactant | azetidine hydrochloride | 0.48 mmol, 45.4 mg | Cl.N1CCC1
product | 4-[4-{3-[4-(azetidin-1-ylmethyl)phenyl]-1,2,4-oxadiazol-5-yl}-1-(2-fluorophenyl)-1H-1,2,3-triazol-5-yl]pyridine | N1(CCC1)CC1=CC=C(C=C1)C1=NOC(=N1)C=1N=NN(C1C1=CC=NC=C1)C1=C(C=CC=C1)F | C25H20FN7O
